US04020157
3-Tritylthiopropionic acid Pentachlorophenyl Ester (Trt-SCH2CH2COOPcp)
3-Tritylthiopropionic acid [1.0 g, 2.87 mmoles, described by R. C. Hiskey and M. A. Harpold, J. Org. Chem., 33, 559 (1968)] is dissolved in dry tetrahydrofuran (25 ml) and pentachlorophenol (0.765 g, 2.87 mmoles) is added. The mixture is cooled to 0° C, dicyclohexylcarbodiimide (0.596 g, 2.87 mmoles) is added and the reaction is stirred for 1 hr at 0° C and 1 hr at 25° C. The reaction mixture is then cooled to 0° C, filtered and the filtrate is evaporated under reduced pressure. The residue is crystallized from ethyl acetate to give the title compound, mp 154°-156° C.

reactant | 3-Tritylthiopropionic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)CCC(=S)O | C22H20OS
reactant | pentachlorophenol | 2.87 mmoles, 0.765 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | dicyclohexylcarbodiimide | 2.87 mmoles, 0.596 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-Tritylthiopropionic acid Pentachlorophenyl Ester | ClC1=C(C(=C(C(=C1OC(CCC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S)Cl)Cl)Cl)Cl | C28H19Cl5OS
